Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diplopia, gait unsteadiness and dysarthria
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
Time (and date) the patient was last known well: ___ afternoon
(>48 h ago)
___ Stroke Scale Score: 4 
t-PA given:  No 
Reason t-PA was not given or considered: out of window
I was present during the CT scanning and reviewed the images
instantly within 20 minutes of their completion.

The NIHSS was performed: 
Date: ___
Time: 1800
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 4
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 2
8. Sensory: 0
9. Language: 0
10. Dysarthria: 2
11. Extinction and Neglect: 0
 
REASON FOR CONSULTATION: Code stroke/or stroke
 
HPI: Mr. ___ is a ___ year old man with no known significant
past medical history, but has not seen a physician in ___ 
years,
significant alcohol use who presents with 3 day history of
binocular diplopia, gait unsteadiness and dysarthria. History
provided by patient.

Mr. ___ reports his symptoms began gradually 3 days ago, on
___. At that time he was at home by himself. His wife
had left for a trip to ___. He noted that when he walked from
living room to the kitchen, he felt "balance was way off". 
Denies
swaying toward one side or the other. He still was able to walk
but felt unsteady, without room-spinning vertigo. Throughout the
afternoon he also noticed he had intermittent horizontal
diplopia. Diplopia resolves upon closing either eye, and lasted
for minutes at a time. It was present with both far and near
vision. No difference with gaze in either direction. 

By the following day, ___, symptoms continued. He
noted that he felt 'more dizzy' but clarifies this to mean that
his balance felt even more off than before. He did have one fall
on his side, without striking his head, due to needing more
support when he tried to walk.  At around 8pm, he developed the
new symptom of speech slurring. He reports when he talked to
himself he felt his speech was significantly slurred, but did 
not
know the severity of this because he did not have his wife there
to talk to. Denied any difficulty understanding or expressing
speech. 

Yesterday, as symptoms continued he reported he had a "sinus
headache" described as a bitemporal throbbing pain, mild in
severity, without any new associated symptoms, which resolved
after several hours.

This morning, at around 10am his wife returned from her ___
trip she was struck by his significant dysarthria and brought 
him
to be admitted to ___.

Prior to above, pt denies any significant changes to his routine
including recent illness or head trauma. He reports that over 
the
years he has banged his head on doors a few times, but denies 
any
events with LOC or significant head trauma. 

At ___, he presented at 1pm. Initial vitals were T 
98.9F,
HR 146 (sinus on EKG), BP 206/120 and upon repeat testing was
180s-190s/110s. Lab w/u included CBC, chem 10, LFTs, trop, UA
which was unrevealing. He did require nicardipine drip for some
time, but this was discontinued prior to arrival. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
Unknown (No medical care for several decades)
 
Social History:
___
Family History:
Denies any family history of stroke or early CAD. 
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T 98.3F, HR 113 (sinus), BP 188/86, RR 18, O2 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to examiner. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
with severe dysarthria, most prominently to lingual and guttural
sounds. Able to follow both midline and appendicular commands.
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with ___ beats
of left beating nystagmus on left gaze, ___ beats of right
beating nystagmus on right gaze, and ___ beats of nystagmus on
vertical gaze. No skew. Normal saccades. VFF to confrontation 
via
finger counting or finger wiggling. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS. Romberg with sway but not
overtly positive. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Mild dysmetria on FNF bilaterally and on HKS
bilaterally. Some truncal ataxia when he sits up on edge of bed. 


-Gait: Stands without assistance, though when asked to walk he
falls back into the bed. Unable to do further gait testing. 

DISCHARGE EXAM:
===============
VS: Temp: 98.2 (Tm 98.5), BP: 158/99 (lying) 173/94, HR: 78, RR:
18, O2 sat: 97%, O2 delivery: RA  

Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able Attentive to examiner.
Language is fluent with intact repetition and comprehension.
Prosody is rapid (less rapid with reading). Speech was with
stable dysarthria, able to repeat both ___ sounds when told
to go slower. Cerebral  Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
horizontal nystagmus this morning. He did have ___ beats of
nystagmus on sustained upwards vertical gaze. Normal saccades.
VFF to confrontation via finger counting or finger wiggling. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS. Romberg with sway but not
overtly positive. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Mild dysmetria on FN with overshoot stronger on
the left side than the right. Mild dysmetria and on HKS
bilaterally, but again stronger with left foot. Significant
truncal ataxia when attempting to walk. Less rebound today.

-Gait: Stands without assistance with some instability. Able to
walk with assistance.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:14PM URINE  HOURS-RANDOM
___ 06:14PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:14PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:14PM URINE  BLOOD-LG* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:14PM URINE  RBC->182* WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 06:14PM URINE  MUCOUS-RARE*
___ 05:37PM   GLUCOSE-104* UREA N-9 CREAT-0.7 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 05:37PM   estGFR-Using this
___ 05:37PM   ALT(SGPT)-14 AST(SGOT)-21 ALK PHOS-69 TOT 
BILI-0.5
___ 05:37PM   LIPASE-31
___ 05:37PM   cTropnT-<0.01
___ 05:37PM   ALBUMIN-4.4 CALCIUM-9.4 PHOSPHATE-3.0 
MAGNESIUM-1.9
___ 05:37PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:37PM   WBC-7.4 RBC-4.87 HGB-14.8 HCT-44.2 MCV-91 
MCH-30.4 MCHC-33.5 RDW-11.7 RDWSD-38.8
___ 05:37PM   NEUTS-76.1* LYMPHS-16.4* MONOS-6.6 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-5.66 AbsLymp-1.22 AbsMono-0.49 
AbsEos-0.02* AbsBaso-0.02
___ 05:37PM   PLT COUNT-250
___ 05:37PM   ___ PTT-33.4 ___

DISCHARGE LABS:
===============
___ 05:55AM BLOOD WBC-6.8 RBC-4.67 Hgb-14.0 Hct-41.8 MCV-90 
MCH-30.0 MCHC-33.5 RDW-11.8 RDWSD-38.4 Plt ___
___ 05:55AM BLOOD ___ PTT-31.3 ___
___ 05:55AM BLOOD Glucose-96 UreaN-10 Creat-0.7 Na-145 
K-3.9 Cl-104 HCO3-25 AnGap-16
___ 05:55AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.0 Cholest-208*
___ 07:03AM BLOOD %HbA1c-5.3 eAG-105
___ 05:55AM BLOOD Triglyc-74 HDL-63 CHOL/HD-3.3 
LDLcalc-130*
___ 05:55AM BLOOD TSH-1.7

IMAGING:
========
MRI Head without contrast ___

1. Acute to subacute left paramedian pontomesencephalic infarct 
without 
evidence of hemorrhagic transformation. 
2. Unchanged bilateral subdural collections causing mild 
effacement of the 
sulci as described above. 
3. Nonspecific scattered white matter lesions in the cerebral 
hemispheres 
bilaterally likely represent sequela of chronic small vessel 
ischemic changes. 
4. Paranasal sinus disease with complete obliteration of the 
left maxillary sinus. 
  
TTE ___
CONCLUSION:
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best excluded by TEE) There is 
no evidence of an atrial septal defect or patent foramen ovale 
by 2D/color Doppler or
agitated saline at rest and with maneuvers. The right atrial 
pressure could not be estimated. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function. No thrombus 
or mass is seen in the left ventricle. Overall left ventricular 
systolic function is low normal. The visually estimated left 
ventricular ejection fraction is 50-55%. Left ventricular 
cardiac index is normal (>2.5 L/min/m2). There is no resting 
left ventricular outflow tract gradient. No ventricular septal 
defect is seen. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus diameter is normal for gender 
with mildly dilated ascending aorta. The aortic arch diameter is 
normal. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. No valvular systolic anterior
motion (___) is present. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no 
pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and low normal global systolic function. No 
definite structural cardiac source of embolism identified. No 
prior TTE available for comparison.

 
Brief Hospital Course:
___ is a ___ year old man with no known significant 
past medical history, but has not seen a physician in ___ 
years, significant alcohol use who was admitted as an OSH 
transfer with 3 day history of binocular diplopia, gait 
unsteadiness and dysarthria. 

His history is notable for the gradual onset of symptoms over 
the 3 days before presentation, with initial symptoms of 
diplopia and gait unsteadiness, followed by severe dysarthria 24 
hours later. On exam, the most prominent feature was significant 
dysarthria, most prominent with lingual and guttural sounds, 
vertical nystagmus, bilateral appendicular and truncal ataxia, 
and inability to ambulate. 

He was found to have an acute ponto-mesencephalic junction 
infarction on MRI. Given longstanding history of uncontrolled 
hypertension and old scattered white matter lesions on MRI, 
etiology of acute ischemic infarct is more likely small-vessel 
disease. Cardioembolic etiology thought to be less likely given 
no history of arrhythmia and low likelihood of embolism reaching 
vessel of such small caliber. TTE unremarkable and he had no 
atrial fibrillation captured in house. He did have sinus 
tachycardia this admission but notes that this has been a 
longstanding issue for him. 

The patient was started on aspirin as well as Plavix for 21 
days. He was also started on atorvastatin 80 mg daily due to LDL 
130. He was found to be hypertensive in house so he was started 
on amlodipine. Given hypertension and tachycardia, he was also 
started on metoprolol tartrate 25 mg q6 initially which was 
consolidated to 100 mg metoprolol succinate prior to discharge. 

TRANSITIONAL ISSUES:
====================
# Patient started on multiple new medications:

1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY Duration: 21 Days 
5. FoLIC Acid 1 mg PO DAILY 
6. Metoprolol Succinate XL 100 mg PO DAILY 
7. Thiamine 100 mg PO TID 

# Consider speech therapy evaluation at rehab

# Confirm patient has PCP and stroke ___ appointment 
(pending, can call ___. 

============================================  
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 130) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3 
4.  Clopidogrel 75 mg PO DAILY Duration: 21 Days 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*20 
Tablet Refills:*0 
5.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
6.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
7.  Thiamine 100 mg PO TID 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Three 
times per day Disp #*90 Tablet Refills:*3 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Acute ischemic ponto-mesencephalic junction stroke
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

  You were hospitalized due to symptoms of double vision, 
unsteadiness, and slurred speech resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- Uncontrolled hypertension
- Hyperlipidemia 
- Alcohol use

 We started the following medications:

1.  amLODIPine 5 mg PO DAILY 
2.  Aspirin 81 mg PO DAILY 
3.  Atorvastatin 80 mg PO QPM 
4.  Clopidogrel 75 mg PO DAILY Duration: 21 Days 
5.  FoLIC Acid 1 mg PO DAILY 
6.  Metoprolol Succinate XL 100 mg PO DAILY  
7.  Thiamine 100 mg PO TID  
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___